US06916819B2
Oxalyl chloride (2.5 eq of 2M in dichloromethane) is added dropwise to a solution of 1-ethyl-2-{[2-(2,5-difluorophenyl)-pyrazol-3-yl]methyl}-1H-benzimidazole-5-carboxylate (368 mg) in DMF (5 drops) and dichlormethane (30 mL) at 0° C. The mixture is stirred at 0° C. for 0.5 h, then at room temperature for 1 h. The solution is concentrated, the residue taken up in DMF (30 ml), excess propargylamine added, and the mixture stirred for 6 h. Dilute aqueous sodium bicarbonate is added then extracted with dichloromethane (3×), the combined organic layers washed with saturated aqueous sodium chloride, dried (MgSO4), and concentrated to give 462 mg of crude N-propargyl 1-ethyl-2-{[2-(2,5-difluorophenyl)-pyrazol-3-yl]methyl}-1H-benzimidazole-5-carboxamide.

reactant | Oxalyl chloride | 2M, 2.5 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-ethyl-2-{[2-(2,5-difluorophenyl)-pyrazol-3-yl]methyl}-1H-benzimidazole-5-carboxylate | 368 mg | C(C)N1C(=NC2=C1C=CC(=C2)C(=O)[O-])CC=2N(N=CC2)C2=C(C=CC(=C2)F)F
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
solvent | dichlormethane | 30 mL | ClCCl | CH2Cl2
product | N-propargyl 1-ethyl-2-{[2-(2,5-difluorophenyl)-pyrazol-3-yl]methyl}-1H-benzimidazole-5-carboxamide | 462 mg | C(C#C)NC(=O)C1=CC2=C(N(C(=N2)CC=2N(N=CC2)C2=C(C=CC(=C2)F)F)CC)C=C1 | C23H19F2N5O
